US05948785
Ethyl 4-chlorobenzimidate hydrochloride was synthesized in the same manner as in Reference Example 2. That is, p-chlorobenzonitrile (25.6 g, 0.186 mol) was reacted with hydrogen chloride in ethanol (250 mL) to give 36.8 g (90%) of the target compound as colorless crystals.

reactant | p-chlorobenzonitrile | 0.186 mol, 25.6 g | ClC1=CC=C(C#N)C=C1 | C7H4ClN
reactant | hydrogen chloride | Cl | ClH
reactant | ethanol | 250 mL | C(C)O | C2H6O
product | Ethyl 4-chlorobenzimidate hydrochloride | Cl.ClC1=CC=C(C(OCC)=N)C=C1 | InChI=1S/C9H10ClNO.ClH/c1-2-12-9(11)7-3-5-8(10)6-4-7;/h3-6,11H,2H2,1H3;1H
